US05231101
Dry THF (20 ml) was added to 0.4 g of 8-cyano-11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine to dissolve the latter, followed by the addition of 0.2 g of triethylamine and 0.27 g of ethyl bromoacetate. The resultant mixture was stirred at room temperature for 24 hours. After the completion of the reaction, THF was distilled off under reduced pressure, the residue was dissolved in chloroform, and the resultant solution was washed with water. The chloroform layer was dried over anhydrous Na2SO4 and then filtered. The chloroform was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column and, from relevant fractions eluted with chloroform:methanol (20:1), 0.5 g of 8-cyano-11-(1-ethoxycarbonylmethyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine was obtained (yield: 97%).

reactant | 8-cyano-11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 0.4 g | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCNCC2)C1 | C20H19N3
reactant | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 0.27 g | BrCC(=O)OCC | C4H7BrO2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 8-cyano-11-(1-ethoxycarbonylmethyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 0.5 g, yield: 97% | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)CC(=O)OCC)C1 | C24H25N3O2
